US07452908B2
Synthesis of ((3S)-1-cyclohexylmethyl-3-piperidyl)methanol
To a solution of 900 mg of (3S)-3-piperidylmethanol in 60 ml of tetrahydrofuran, 1.05 g of cyclohexanecarbaldehyde, 0.54 ml of acetic acid and 2.5 g of sodium triacetoxyborohydrate were successively added at room temperature by the order stated, followed by 21 hours' stirring at the same temperature. The reaction liquid was rendered acidic with 1N hydrochloric acid and washed with chloroform. The aqueous layer was rendered basic with 4N aqueous sodium hydroxide solution, followed by extraction with chloroform and drying over anhydrous sodium sulfate. Distilling the solvent off under reduced pressure, 990 mg of the title compound was obtained.

reactant | (3S)-3-piperidylmethanol | 900 mg | N1C[C@H](CCC1)CO | C6H13NO
reactant | cyclohexanecarbaldehyde | 1.05 g | C1(CCCCC1)C=O | C7H12O
reactant | sodium | 2.5 g | [Na] | Na
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 0.54 ml | C(C)(=O)O | C2H4O2
product | ((3S)-1-cyclohexylmethyl-3-piperidyl)methanol | 990 mg | C1(CCCCC1)CN1C[C@H](CCC1)CO | C13H25NO
